US08957069B2
[(5-bromo-4,6,7-trimethyl-1-benzofuran-3-yl)oxy](tert-butyl)dimethylsilane
Triethylamine (2.15 g, 21.2 mmol) and tert-butyldimethylsilyl trifluoromethanesulfonate (4.68 g, 17.7 mmol) were sequentially added to a solution of toluene (100 mL) containing 5-bromo-4,6,7-trimethyl-1-benzofuran-3(2H)-one (3.00 g, 11.8 mmol) synthesized in Reference Example 45, and the mixture was stirred at room temperature for 1 hour. The resulting mixture was poured into saturated sodium bicarbonate water, and extraction was performed using ethyl acetate. The extract was washed with saturated saline, and dried using anhydrous magnesium sulfate, followed by concentration under reduced pressure. The residue was purified by silica gel chromatography (hexane-ethyl acetate 99:1 to 94/6) to give 4.14 g of the title compound (yield: 95%).

reactant | Triethylamine | 21.2 mmol, 2.15 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 17.7 mmol, 4.68 g | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | 5-bromo-4,6,7-trimethyl-1-benzofuran-3(2H)-one | 11.8 mmol, 3.00 g | BrC=1C(=C(C2=C(C(CO2)=O)C1C)C)C | C11H11BrO2
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | [(5-bromo-4,6,7-trimethyl-1-benzofuran-3-yl)oxy](tert-butyl)dimethylsilane | 4.14 g, yield: 95% | BrC=1C(=C(C2=C(C(=CO2)O[Si](C)(C)C(C)(C)C)C1C)C)C | C17H25BrO2Si
